Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / ciprofloxacin / contrast dye
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ who presents with abdominal pain. Has had multiple
episodes every few months for several years of RLQ abdominal
pain. Most recently had pain beginning 4 days ago that has
improved. Started RLQ and became more generalized. Went to 
urgent
care per her PCP request when she requested pain medications for
future episodes. This showed appendicitis so she came to the ED.
Denies N/V, urinary symptoms, change in bowel habits, fevers.
Does report chills a few days ago. 
 
Past Medical History:
PMHx: AVNRT, HTN, migraines

PSHx: hysterectomy, face lift 10 days ago
 
Social History:
___
Family History:
mother with diverticulitis. no IBD or GI malignancy

 
Physical Exam:
Admission Physical exam
VS: 99.0, 72, 116/86, 18, 100% RA
Gen: NAD
CV: RRR
Pulm: breathing comfortably
Abd: lower midline scar, soft, nondistended. tender focally in
RLQ with voluntary guarding. no rebound, involuntary guarding, 
or
rigidity. no CVAT
Rectal: deferred
Ext: no edema

Discharge Physical Exam:
VS: 98.0, 127/78, 77, 16, 99 Ra 
Gen: A&O x3
CV: HRR
Pulm: LS ctab
Abd: soft NT/ND
Ext: No edema
 
Pertinent Results:
___ 05:40AM BLOOD WBC-8.5 RBC-3.97 Hgb-11.3 Hct-35.0 MCV-88 
MCH-28.5 MCHC-32.3 RDW-12.2 RDWSD-39.6 Plt ___
___ 03:03PM BLOOD WBC-11.4* RBC-4.42 Hgb-12.5 Hct-38.5 
MCV-87 MCH-28.3 MCHC-32.5 RDW-12.2 RDWSD-39.5 Plt ___
___ 05:40AM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-145 
K-4.2 Cl-103 HCO3-25 AnGap-17*
___ 03:03PM BLOOD Glucose-79 UreaN-18 Creat-0.9 Na-141 
K-4.4 Cl-101 HCO3-27 AnGap-13
___ 05:40AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.0

UA positive for leuk esterase, blood, protein, RBC, WBC, and
bacteria

Imaging: 
CT A/P ___. Acute uncomplicated appendicitis.
2. No evidence of nephrolithiasis.
3. Grade 1 anterolisthesis of L4 on L5.
 
Brief Hospital Course:
___ with multiple episodes of abdominal pain, currently with 4 
days RLQ abdominal pain, positive UA (without urinary symptoms) 
and CT showing appendicitis. The patient was admitted to the 
General Surgery service for IV antibiotics, bowel rest, and 
serial abdominal exams. The patient was hemodynamically stable. 

Once abdominal pain resolved, diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and denied pain.  
The patient was discharged home  on HD3 without services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan. She was given a prescription to complete a week of 
antibiotics and would follow-up in the ___ clinic to discuss an 
interval appendectomy. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Venlafaxine XR 150 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0 
2.  Venlafaxine XR 150 mg PO DAILY  
3.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Appendicitis
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain and were found to 
have appendicitis and a urinary tract infection. You were 
treated non-operatively with bowel rest and IV fluids. When your 
pain improved your diet was advanced and your antibiotics were 
converted to oral. You are now doing well and medically cleared 
to be discharged home to continue your recovery. You should 
follow-up in the surgical clinic to discuss an interval 
appendectomy. Please note the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

 
Followup Instructions:
___